US09085534B2
3-[(4-phenoxybenzyl)amino]pyridine-4-carboxylic acid
The title compound was prepared in 36% yield from 4-phenoxybenzylamine and 3-fluoroisonicotinic acid according to the procedure for the preparation of Example 3. 1H NMR (400 MHz, DMSO-d6): δ 13.42 (br s, 1H), 8.18 (s, 1H), 7.83 (d, 1H, J=5.0 Hz), 7.57 (d, 1H, J=5.0 Hz), 7.35-7.40 (m, 4H), 7.13 (t, 1H, J=7.2), 6.97-7.02 (m, 4H), 4.55 (s, 2H). [M+H] calc'd for C19H16N2O3, 321; found 321.

reactant | 4-phenoxybenzylamine | O(C1=CC=CC=C1)C1=CC=C(CN)C=C1 | C13H13NO
reactant | 3-fluoroisonicotinic acid | FC1=C(C(=O)O)C=CN=C1 | C6H4FNO2
product | 3-[(4-phenoxybenzyl)amino]pyridine-4-carboxylic acid | 36% yield | O(C1=CC=CC=C1)C1=CC=C(CNC=2C=NC=CC2C(=O)O)C=C1 | C19H16N2O3
